US07514566B2
(2S,3S)-3-(Boc)amino-4-(5-bromothiazol-2-yl(Boc)amino)-2-(4-(trifluoromethyl)phenyl)butyl pivalate (0.66 g, 0.95 mmol) was taken up in 10 mL of THF and chilled to −78° C. Super hydride, 1M in THF (2.4 mL, 2.4 mmol) was added. The mixture was stirred for 5 minutes and then warmed to 0° C. The mixture was stirred for 15 minutes and then quenched with 5 mL of EtOAc. The mixture was diluted with 10 mL of aqueous NH4Cl and partitioned in a separatory funnel. The aqueous portion was extracted twice with 20 mL of EtOAc, and the combined organic layers were washed with 10 mL of brine and dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (5% to 25% EtOAc/hexanes) afforded (2S,3S)-3-(Boc)amino-4-(5-bromothiazol-2-yl(Boc)amino)-2-(4-(trifluoromethyl)phenyl)butan-1-ol (0.51 g, 88% yield) 82646-5-1 as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.61 (d, J=8.02 Hz, 2H) 7.35 (d, J=8.02 Hz, 2H) 5.16-5.02 (m, 1H) 4.60-4.51 (m, 1H), 4.33-4.20 (m 1H) 4.09-3.96 (m, 1H), 3.91-3.65 (m, 2H) 3.15-3.05 (m, 1H) 1.52 (s, 9H) 1.37 (s, 9H).

reactant | (2S,3S)-3-(Boc)amino-4-(5-bromothiazol-2-yl(Boc)amino)-2-(4-(trifluoromethyl)phenyl)butyl pivalate | 0.95 mmol, 0.66 g | C(C(C)(C)C)(=O)OC[C@H]([C@@H](CN(C(=O)OC(C)(C)C)C=1SC(=CN1)Br)NC(=O)OC(C)(C)C)C1=CC=C(C=C1)C(F)(F)F | C29H39BrF3N3O6S
reactant | Super hydride | [Li+].[B-](CC)(CC)CC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2.4 mmol, 2.4 mL | C1CCOC1 | C4H8O
product | (2S,3S)-3-(Boc)amino-4-(5-bromothiazol-2-yl(Boc)amino)-2-(4-(trifluoromethyl)phenyl)butan-1-ol | 0.51 g, 88% yield | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](CO)C1=CC=C(C=C1)C(F)(F)F)CN(C(=O)OC(C)(C)C)C=1SC(=CN1)Br | C24H31BrF3N3O5S
